US07667041B2
Synthesis of 2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde
Sodium bis(2-methoxyethoxy)aluminum hydride (65% solution in toluene, 11.4 mL) was added dropwise to a suspension of 2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzonitrile (8.85 g) in THF (180 mL) in a nitrogen atmosphere at −15° C., and the reaction solution was stirred for 1 hour. Water was added to the reaction mixture, and the mixture was stirred at room temperature for 10 minutes. Then, a 5 N aqueous solution of sodium hydroxide and ethyl acetate were added to the mixture and the organic layer was partitioned. The resulting organic layer was made acidic with 5 N aqueous hydrochloric acid, and the mixture was stirred. Then, the mixture was neutralized with 5 N aqueous sodium hydroxide and the organic layer was partitioned. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:ethyl acetate) to obtain 3.32 g of the title compound. Properties data of the compound are as follows.

reactant | Sodium bis(2-methoxyethoxy)aluminum hydride | 11.4 mL | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzonitrile | 8.85 g | FC1=C(C#N)C=C(C(=C1)N1C=NC(=C1)C)OC | C12H10FN3O
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 3.32 g | FC1=C(C=O)C=C(C(=C1)N1C=NC(=C1)C)OC | C12H11FN2O2
